US04771046
(2) (3R)-3-Carbamoyloxypyrrolidine hydrochloride
15 ml of a 4M hydrogen chloride solution in ethyl acetate was added to a suspension of 3.00 g of (3R)-1-(t-butoxycarbonyl)-3-carbamoyloxypyrrolidine in 30 ml of methylene chloride, and the mixture was stirred for 30 minutes at 30° C. After completion of the reaction, the precipitated crystals were collected by filtration and washed with ether, giving 1.78 g of the title compound.

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | (3R)-1-(t-butoxycarbonyl)-3-carbamoyloxypyrrolidine | 3.00 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OC(N)=O | C10H18N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3-Carbamoyloxypyrrolidine hydrochloride | 1.78 g | Cl.C(N)(=O)O[C@H]1CNCC1 | InChI=1S/C5H10N2O2.ClH/c6-5(8)9-4-1-2-7-3-4;/h4,7H,1-3H2,(H2,6,8);1H/t4-;/m1./s1
